US07514446B2
To a cooled (−78° C.) solution of 2,4-dichloro-5-nitropyrimidine (0.53 g, 2.75 mmol) in THF (2 mL) was added a solution of anthranilic acid (0.37 g, 2.50 mmol) and N,N-diisopropylethylamine (0.5 mL, 3.0 mmol) in THF (2.0 mL). The reaction was stirred for 2.0 hours. The reaction was then poured onto ice and allowed to warm to room temperature then was filtered. The isolated solid was dried under vacuum, then recrystallized from hot ethyl acetate and cold hexane to give 2-[(2-chloro-5-nitropyrimidin-4-yl)amino]benzoic acid (307 mg, 42%) as a yellow solid. 1H NMR (DMSO-d6/D2O): δ 9.20 (s, 1H), 8.36 (d, 1H), 8.07 (d, 1 H), 7.70 (t, 1 H), 7.37 (t, 1 H). MS m/z 294 (M+1).

reactant | 2,4-dichloro-5-nitropyrimidine | 2.75 mmol, 0.53 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | anthranilic acid | 2.50 mmol, 0.37 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | N,N-diisopropylethylamine | 3.0 mmol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 2-[(2-chloro-5-nitropyrimidin-4-yl)amino]benzoic acid | 307 mg, 42% | ClC1=NC=C(C(=N1)NC1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C11H7ClN4O4
